US06852726B2
Using the procedure described in Tetrahedron Letters 40 (1999), 1195-1196, 6-methoxy-1H-indole (1.0 g, 6.8 mmole) and ammonium thiocyanate (0.621 g, 8.1 mmole) were dissolved in methanol (35 ml) and treated with ceric ammonium nitrate (8.56 g, 15.6 mmole)in methanol (175 ml) at room temperature. The reaction mixture was stirred for 15 m and then diluted with water (700 ml) and extracted with methylene chloride (4×125 ml). The combined organic extracts were dried over sodium sulfate, filtered and evaporated to dryness. The residue was purified by column chromatography (silica gel) using ethyl acetate:hexane (1:9) as the eluting solvent to afford 6-methoxy-3-thiocyanato-1H-indole (0.40 g 29% yield).

reactant | 6-methoxy-1H-indole | 6.8 mmole, 1.0 g | COC1=CC=C2C=CNC2=C1 | C9H9NO
reactant | ammonium thiocyanate | 8.1 mmole, 0.621 g | [S-]C#N.[NH4+]
solvent | methanol | 35 ml | CO | CH4O
solvent | methanol | 175 ml | CO | CH4O
solvent | water | 700 ml | O | H2O
product | 6-methoxy-3-thiocyanato-1H-indole | 0.40 g, 29% yield | COC1=CC=C2C(=CNC2=C1)SC#N | C10H8N2OS
